US05116862
1-(Hex-5-ynyl)-4-n-propyl-2-oxa-6,7-dithiabicyclo[2.2.2]octane
In an analogous manner 4-n-butyl-1-(hex-5-ynyl)-2-oxa-6,7-dithiabicyclo[2.2.2]octane, 4-t-butyl-1-(hex-5-ynyl)-2-oxa-6,7-dithiabicyclo[2.2.2]octane, 4-i-butyl-1-(hex-5-ynyl)-2-oxa-6,7-dithiabicyclo[2.2.2]octane, 1-(hex-5-ynyl)-4-phenyl-2-oxa-6,7-dithiabicyclo[2.2.2]octane and 4-cyclopropylmethyl-1-(hex-5-ynyl)-2-oxa-6,7-dithiabicyclo[2.2.2]octane were prepared from trimethyl orthohept-6-ynoate and 2-n-butyl-2-hydroxymethylpropan-1,3-dithiol, 2-t-butyl-2-hydroxymethylpropan-1,3-dithiol, 2-i-butyl-2-hydroxymethylpropan-1,3-dithiol, 2-hydroxymethyl-2-phenylpropan-1,3-dithiol and 2-cyclopropylmethyl-2-hydroxymethylpropan-1,3-dithiol respectively.

reactant | 4-n-butyl-1-(hex-5-ynyl)-2-oxa-6,7-dithiabicyclo[2.2.2]octane | C(CCC)C12COC(SC1)(SC2)CCCCC#C | C15H24OS2
reactant | 4-t-butyl-1-(hex-5-ynyl)-2-oxa-6,7-dithiabicyclo[2.2.2]octane | C(C)(C)(C)C12COC(SC1)(SC2)CCCCC#C | C15H24OS2
reactant | 4-i-butyl-1-(hex-5-ynyl)-2-oxa-6,7-dithiabicyclo[2.2.2]octane | C(C(C)C)C12COC(SC1)(SC2)CCCCC#C | C15H24OS2
reactant | 1-(hex-5-ynyl)-4-phenyl-2-oxa-6,7-dithiabicyclo[2.2.2]octane | C(CCCC#C)C12OCC(CS1)(CS2)C2=CC=CC=C2 | C17H20OS2
reactant | 4-cyclopropylmethyl-1-(hex-5-ynyl)-2-oxa-6,7-dithiabicyclo[2.2.2]octane | C1(CC1)CC12COC(SC1)(SC2)CCCCC#C | C15H22OS2
reactant | 2-n-butyl-2-hydroxymethylpropan-1,3-dithiol | C(CCC)C(CS)(CS)CO | C8H18OS2
reactant | 2-t-butyl-2-hydroxymethylpropan-1,3-dithiol | C(C)(C)(C)C(CS)(CS)CO | C8H18OS2
reactant | 2-i-butyl-2-hydroxymethylpropan-1,3-dithiol | C(C(C)C)C(CS)(CS)CO | C8H18OS2
reactant | 2-hydroxymethyl-2-phenylpropan-1,3-dithiol | OCC(CS)(CS)C1=CC=CC=C1 | C10H14OS2
reactant | 2-cyclopropylmethyl-2-hydroxymethylpropan-1,3-dithiol | C1(CC1)CC(CS)(CS)CO | C8H16OS2
product | 1-(Hex-5-ynyl)-4-n-propyl-2-oxa-6,7-dithiabicyclo[2.2.2]octane | C(CCCC#C)C12OCC(CS1)(CS2)CCC | C14H22OS2
